US09278983B2
A mixture of 2-ethylsulfanyl-N-(2-methylamino-5-trifluoromethylphenyl)-benzamide (1.64 g), p-toluenesulfonic acid monohydrate (1.76 g), and xylene (50 ml) was stirred under reflux at 150° C. for 1 hour. Into the reaction mixture cooled to room temperature, saturated aqueous sodium hydrogen carbonate solution was poured, and extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium hydrogen carbonate solution and saturated brine, dried over sodium sulfate, and concentrated under reduced pressure. The resulting residue was subjected to silica gel column chromatography to give 1.40 g of 2-(2-ethylsulfanylphenyl)-1-methyl-5-trifluoromethyl-1H-benzimidazole (hereinafter referred to as Present Compound 68).

reactant | 2-ethylsulfanyl-N-(2-methylamino-5-trifluoromethylphenyl)-benzamide | 1.64 g | C(C)SC1=C(C(=O)NC2=C(C=CC(=C2)C(F)(F)F)NC)C=CC=C1 | C17H17F3N2OS
reactant | p-toluenesulfonic acid monohydrate | 1.76 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | xylene | 50 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 2-(2-ethylsulfanylphenyl)-1-methyl-5-trifluoromethyl-1H-benzimidazole | 1.40 g | C(C)SC1=C(C=CC=C1)C1=NC2=C(N1C)C=CC(=C2)C(F)(F)F | C17H15F3N2S
